* single resistor and capactor in parallel with an AC current source, all connected through a resistor to ground.
Is1 1 2 AC 1 0
R1 1 2 0.5
C1 1 2 0.5
Rg 1 0 0.001
.end
